US08486996B2
3-Amino-5-chloro-2-(2-allyloxy-5-methoxybenzoyl)-benzofuran
A suspension of 3-amino-5-chloro-2-(2-hydroxy-5-methoxybenzoyl)-benzofuran (0.06 g, 0.19 mmol), potassium carbonate (0.08 g, 0.6 mmol) and allyl bromide (0.1 g, 0.8 mmol) in dry acetone (3 ml) is stirred 55° C. for 48 h. The solids are filtered off and the solution is concentrated under reduced pressure. Purification of the residue by silicagel column chromatography yields the title compound of m.p. 115-116° C.

reactant | 3-amino-5-chloro-2-(2-hydroxy-5-methoxybenzoyl)-benzofuran | 0.19 mmol, 0.06 g | NC1=C(OC2=C1C=C(C=C2)Cl)C(C2=C(C=CC(=C2)OC)O)=O | C16H12ClNO4
reactant | potassium carbonate | 0.6 mmol, 0.08 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 0.8 mmol, 0.1 g | C(C=C)Br | C3H5Br
solvent | acetone | 3 ml | CC(=O)C | C3H6O
product | 3-Amino-5-chloro-2-(2-allyloxy-5-methoxybenzoyl)-benzofuran | NC1=C(OC2=C1C=C(C=C2)Cl)C(C2=C(C=CC(=C2)OC)OCC=C)=O | C19H16ClNO4
